US06172228B2
1-[(3-Chlorophenyl)phenylmethyl]piperazine (500 mg, 1.74 mmol) and 6-chlorohexanesulfonamide (383 mg, 1.92 mmol) synthesized referring to a process described in J. Org. Chem. 52, 2162 (1987) were refluxed in N-ethyldiisopropylamine (5 ml) for 6 hours. The reaction mixture was concentrated in vacuo, and water was added thereto. The mixture was extracted with chloroform. The chloroform layer was washed with water, and dried over anhydrous magnesium sulfate. Subsequently, the solvent was removed by evaporation in vacuo. The resulting crude product was purified by column chromatography on silica gel with chloroform-methanol (100:3), to give 6-[4-[(3-chlorophenyl)phenylmethyl]1-piperazinyl]hexanesulfonamide (749 mg) as a colorless oil (yield based on 1-[(3-chlorophenyl)phenylmethyl]piperazine: 95.4%).

reactant | 1-[(3-Chlorophenyl)phenylmethyl]piperazine | 1.74 mmol, 500 mg | ClC=1C=C(C=CC1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | 6-chlorohexanesulfonamide | 1.92 mmol, 383 mg | ClCCCCCCS(=O)(=O)N | C6H14ClNO2S
solvent | N-ethyldiisopropylamine | 5 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 6-[4-[(3-chlorophenyl)phenylmethyl]1-piperazinyl]hexanesulfonamide | 749 mg | ClC=1C=C(C=CC1)C(N1CCN(CC1)CCCCCCS(=O)(=O)N)C1=CC=CC=C1 | C23H32ClN3O2S
